Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Ampicillin / Sulfa (Sulfonamide Antibiotics) / 
cefuroxime / Gadolinium-Containing Contrast Media / gluten / 
nadolol / Pneumovax 23 / levofloxacin
 
Attending: ___.
 
Chief Complaint:
Hematemesis
 
Major Surgical or Invasive Procedure:
EGD (___)
 
History of Present Illness:
Ms. ___ is a ___ year old woman with primary sclerosing 
cholangitis complicated by cirrhosis (Childs B) with ascites, 
hepatic encephalopathy, and varices who presents as a transfer 
from ___ with fever of 100.5 and report of UGIB. 
The patient reports she thinks she ate a meal with gluten this 
past evening which she believes precipitated her abdominal pain 
and emesis. After 1.5 hours of vomiting she had some 
blood-tinged emesis that then became more coffee-ground, raising 
her concern for a variceal bleed.
 
In the ED, initial vitals: T 100.5, 95, 99/50, 20, 98% RA  
- Labs showed Hgb 10.4 (stable), WBC 8.5, Plts 233, INR 1.3, 
Lactate 3.4
- Medications given: octreotide gtt, protonix IV, morphine 4mg 
IV
- She was seen by Liver in the ED who recommended octreotide 
gtt, PPI, ceftriaxone and ICU admission for EGD.

On transfer, vitals were: HR 90, BP 108/37, RR 12, Sat 93%RA

She says her abdominal pain is improved after receiving morphine 
IV in the ED. She has had no emesis since midnight (8 hours 
ago).

On arrival to the MICU,  Review of systems:  
(+) Per HPI  
(-) Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath, or wheezing. Denies chest 
pain, chest pressure, palpitations, or weakness. Denies dysuria, 
frequency, or urgency. Denies arthralgias or myalgias. Denies 
rashes or skin changes.  

 
Past Medical History:
- Primary sclerosing cholangitis (PSC)
- History of recurrent cholangitis
- ___ Laparoscopic cholecystectomy with liver biopsy 
showing bile ductular proliferation and very focal early, 
incomplete nodule formation (stage ___ fibrosis)
- Celiac sprue (diagnosed by biopsy, slightly elevated tTG) 
- Hypertension
- GERD  
- Hypothyroidim  
- OSA previously on CPAP - negative on repeat testing  
- (?) IBD (Crohn disease diagnosed at ___ at the age of ___, but 
questionable diagnosis as no symptoms for over ___
   
 
Social History:
___
Family History:
Daughter has ___ disease. The patient denies a history of 
premature cardiac disease such as MI, arrhythmia or sudden 
cardiac death. No history of liver disease. Sister with 
endometrial cancer and thyroid condition. Other sister and a 
brother with thyroid condition. Father with CAD, DM. Mother with 
thyroid disease and peritoneal cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: HR 90, BP 108/37, RR 12, Sat 93%RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, but somewhat distended. Bowel sounds 
present, no rebound tenderness or guarding. 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL EXAM:
VS: T98 afeb; 107/46 to 131/43 HR ___ RR 18 98% on RA. 
GENERAL: Alert, oriented, pleasant lady laying in bed in no 
acute distress.
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: clear to auscultation bilaterally, no wheezes.  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, but somewhat distended. Bowel sounds, no 
rebound or guarding. 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema

 
Pertinent Results:
=== ADMISSION LABS ===

___ 04:15AM BLOOD WBC-8.5# RBC-3.88* Hgb-10.4* Hct-33.3* 
MCV-86# MCH-26.8 MCHC-31.2* RDW-15.6* RDWSD-48.5* Plt ___
___ 04:15AM BLOOD Neuts-79.7* Lymphs-7.6* Monos-10.9 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-6.79*# AbsLymp-0.65* 
AbsMono-0.93* AbsEos-0.08 AbsBaso-0.03
___ 04:15AM BLOOD ___ PTT-34.7 ___
___ 04:15AM BLOOD Glucose-139* UreaN-16 Creat-0.9 Na-137 
K-4.1 Cl-98 HCO3-25 AnGap-18
___ 04:15AM BLOOD ALT-43* AST-56* AlkPhos-234* TotBili-2.5*
___ 12:37PM BLOOD Type-ART pO2-92 pCO2-49* pH-7.40 
calTCO2-31* Base XS-3
___ 04:26AM BLOOD Lactate-3.4*
___ 08:20AM BLOOD Lactate-1.4

===LABS AT DISCHARGE===

___ 05:10AM BLOOD WBC-3.2* RBC-3.31* Hgb-9.1* Hct-29.7* 
MCV-90 MCH-27.5 MCHC-30.6* RDW-16.1* RDWSD-51.1* Plt ___
___ 05:10AM BLOOD Glucose-113* UreaN-12 Creat-0.7 Na-140 
K-4.0 Cl-101 HCO3-32 AnGap-11
___ 05:10AM BLOOD ALT-29 AST-32 AlkPhos-191* TotBili-1.3

=== IMAGING ===

EKG (___):  NSR @ 94 bpm, normal axis, prolonged QTc at 
468/512. No ischemic changes.

EGD (___): 
Lesions 2 cords of grade II varices were seen in the lower third 
of the esophagus that were non-bleeding, but with high-risk 
stigmata (red ___ sign) on one cord.  2 bands were successfully 
placed.  
Other Scarring in the distal esophagus consistent with previous 
banding. Stomach: Mucosa: Erythema and mosaic appearance of the 
mucosa were noted in the fundus. These findings are compatible 
with mild portal hypertensive gastropathy. Duodenum: Normal 
duodenum. 

CXR ___:
In comparison with the study of ___, the cardiac silhouette 
remains within normal limits and there is no vascular 
congestion, pleural effusion, or acute focal pneumonia. 
Increased prominence of the right hilum most likely reflects 
obliquity of the patient.

ECHO w/ bubble study ___:
The left atrial volume index is mildly increased. A few very 
late microbubbles are seen in the left heart after intravenous 
injection c/w normal transpulmonic passage. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >70%). The estimated cardiac index is 
high (>4.0L/min/m2). The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. There is no valvular 
aortic stenosis. The increased transaortic velocity is likely 
related to high cardiac output. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and excellent global biventricular systolic function. 
Mild pulmonary artery systolic hypertension. No definite 
premature passage of microbubbles.

Compared with the prior study (images reviewed) of ___, 
left ventricular function is more dynamic and the estimated PA 
systolic pressure is now higher.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with PSC complicated by 
___ Class B cirrhosis decompensated with ascites, 
hepatic encephalopathy, and varices who was transferred from 
___ with fevers and hematemesis. Now s/p EGD with 
banding. Patient has remained HD stable without further episodes 
of bleeding. 

# Hematemesis: 
Patient with hematemesis in setting of aggressive vomiting 
concerning for ___ tear versus bleeding of known grade 
II esophageal varices. She underwent EGD demonstrating 2 cords 
of grade II varices that were non-bleeding, but with high-risk 
stigmata (red ___ sign) on one cord. 2 bands were successfully 
placed. Patient remained HD stable with Hg approximately at her 
baseline. She received octreotide x72h, IV PPI, and CFTX for SBP 
ppx. No further hematemesis during her hospitalization. Never 
with any blood per rectum.  She will require carafate 1g QID x 
14 days (last day ___. and repeat EGD in ___ weeks. 

#Fever: 
Febrile to 100.5 on admission. No clear infectious source. CXR 
and urine culture negative with no growth to date on blood 
cultures. In the ICU, the patient was started on treatment doses 
of ceftriaxone, although no tappable ascites pocket was present 
for diagnostic analysis of peritoneal fluid. Given new oxygen 
requirement, some concern that patient may have aspirated during 
EGD. Of note, patient was recently admitted from ___ to ___ with 
fevers and RUQ pain. Antibiotics were not given. She had an 
extensive work up for FUO at that time, notable for elevated 
ESR/CRP, but no precise etiology was determined. Patient 
remained afebrile throughout the rest of her admission and 
received four days of CFTX as ppx for SBP in setting of UGIB. 

#Hypoxemia: 
Patient noted to be intermittently hypoxemic, reportedly worse 
with vasalva. However, no orthodeoxia or platypnea to suggest 
HPS. ECHO bubble study  without evidence of intrapulmonary or 
intracardiac shunt or other concerning cardiac pathology. 
Patient with crackles at bases on lung exam. Thus, hypoxia 
likely due to atelectasis. Her oxygenation improved 
significantly and she was saturated in the high ___ prior to 
discharge without any further episodes of hypoxia. 

# Decompensated Cirrhosis:
___ Class B cirrhosis secondary to PSC decompensated 
with ascites, hepatic encephalopathy, and varices s/p banding on 
___. Continue hydroxyzine, rifaximin, and lactulose. Continued 
home diuretics. 

# Primary Sclerosing Cholangitis:
Continued Cholestyramine 4 gm PO DAILY  and Ursodiol 300 mg PO 
TID. 

#Hypothyroidism:
Continued home levothyroxine. 

TRANSITIONAL ISSUES
==================
- Patient will need 14 total days of sucralfate 1g QID end date 
___
- She will need follow up EGD on ___. 
- HCP: ___ (husband, ___ 
- Code status: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cholestyramine 4 gm PO DAILY 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Furosemide 40 mg PO BID 
4. HydrOXYzine 50 mg PO QHS:PRN itching 
5. Lactulose 30 mL PO TID:PRN confusion 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Ondansetron 4 mg PO BID:PRN nausea 
10. Rifaximin 550 mg PO BID 
11. Spironolactone 100 mg PO BID 
12. Temazepam 15 mg PO QHS:PRN insomnia 
13. Ursodiol 300 mg PO TID 

 
Discharge Medications:
1. Cholestyramine 4 gm PO DAILY 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Furosemide 40 mg PO BID 
4. HydrOXYzine 50 mg PO QHS:PRN itching 
5. Lactulose 30 mL PO TID:PRN confusion 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Rifaximin 550 mg PO BID 
9. Spironolactone 100 mg PO BID 
10. Temazepam 15 mg PO QHS:PRN insomnia 
11. Ursodiol 300 mg PO TID 
12. Sucralfate 1 gm PO QID 
Through ___.  
RX *sucralfate 1 gram 1 tablet(s) by mouth four times per day 
Disp #*45 Tablet Refills:*0
13. Omeprazole 40 mg PO DAILY 
14. Ondansetron 4 mg PO BID:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Hematemesis
2. Esophageal varices

Secondary:
1. Childs B Cirrhosis
2. Primary sclerosing cholangitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted to the hospital after vomiting 
blood. You had an endoscopy which found enlarged vessels in your 
esophagus called varices that are high risk of bleeding and 
these were banded. You had no further episodes of bleeding and 
we feel that it is safe for you to be discharged. 

Because of this bleeding, you will need to take some additional 
medications temporarily:

1) You will need to take sucralfate 1g four times a day until 
___

You will also need a repeat endoscopy next month which has been 
scheduled for ___ at 8:30 AM. Please continue to 
take all medications as prescribed and attend all follow up 
appointments. If you develop any of the danger signs listed 
below, then please contact your doctors ___ to the emergency 
room immediately.

We wish you the best!

Sincerely, 
Your ___ Team
 
Followup Instructions:
___